US06479487B1
1-(5-Butoxypentyl)-4-piperidone oxime is prepared from 1-(5-butoxypentyl)-4-piperidone and hydroxylamine hydrochloride essentially as described above in Example 38, Scheme C, step b.

reactant | 1-(5-butoxypentyl)-4-piperidone | C(CCC)OCCCCCN1CCC(CC1)=O | C14H27NO2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 1-(5-Butoxypentyl)-4-piperidone oxime | C(CCC)OCCCCCN1CCC(CC1)=NO | C14H28N2O2
